US09416135B2
To a solution of (R)-methyl 1-isopropyl-2-(5-(methoxycarbonyl)-4-methylpyrimidin-2-yl)-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate (15 mg, 0.03 mmol) in toluene (2 mL) was added DIBAL H (1M in toluene, 0.3 mL, 0.3 mmol) at −78° C. The mixture was stirred at −78° C. for 2 h and then rt for 30 mins. Sat. NH4Cl solution (5 mL) was added slowly at 0° C. and the mixture was filtered. The aqueous layer was extracted with EtOAc (3×10 mL). The combined organic layers were washed with brine, dried over anhydrous Na2SO4, filtered and concentrated under vacuum. The residue was purified by preparative TLC to afford (R)-(2-(8-(hydroxymethyl)-1-isopropyl-7-(methylsulfonyl)-3,4-dihydrobenzo[4,5]imidazo[1,2-a]pyrazin-2(1H)-yl)-4-methylpyrimidin-5-yl)methanol (1.6 mg, 12.3% yield) as a colorless oil. LC-MS MS (ESI) m/z 446.2 [M+H]+. 1H NMR (CD3OD 400 MHz): δ 8.26 (s, 1H), 8.23 (s, 1H), 7.99 (s, 1H), 6.00 (d, J=8.8 Hz, 1H), 5.17 (s, 2H), 4.90-4.79 (m, 1H), 4.67 (s, 2H), 4.45-4.44 (m, 1H), 4.25-4.18 (m, 1H), 4.15-4.04 (m, 1H), 3.31 (s, 3H), 2.58-2.49 (m, 1H), 2.45 (s, 3H), 1.25 (d, J=6.8 Hz, 3H), 1.12 (d, J=6.8 Hz, 3H).

reactant | (R)-methyl 1-isopropyl-2-(5-(methoxycarbonyl)-4-methylpyrimidin-2-yl)-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate | 0.03 mmol, 15 mg | C(C)(C)[C@@H]1C=2N(CCN1C1=NC=C(C(=N1)C)C(=O)OC)C1=C(N2)C=C(C(=C1)S(=O)(=O)C)C(=O)OC | C23H27N5O6S
reactant | DIBAL | CC(C)C[AlH]CC(C)C
reactant | NH4Cl | 5 mL | [NH4+].[Cl-]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | (R)-(2-(8-(hydroxymethyl)-1-isopropyl-7-(methylsulfonyl)-3,4-dihydrobenzo[4,5]imidazo[1,2-a]pyrazin-2(1H)-yl)-4-methylpyrimidin-5-yl)methanol | 1.6 mg, 12.3% yield | OCC=1C(=CC2=C(N=C3N2CCN([C@@H]3C(C)C)C3=NC=C(C(=N3)C)CO)C1)S(=O)(=O)C | C21H27N5O4S
